US08309577B2
A mixture of 4,6-dichloropyrimidine (5.96 g, 40 mmol), imidazole (2.72 g, 40.0 mmol), and potassium carbonate (5.53 g, 40.0 mmol) was stirred in DMF (50 mL) at room temperature for 18 h. The reaction was diluted into 500 mL water and extracted five times with 150 mL EtOAc. The combined organic layers were concentrated and purified by flash chromatography on a 240 g silica gel cartridge with 0 to 10% methanol in ethyl acetate to yield 4-chloro-6-(1H-imidazol-1-yl)pyrimidine (4.56 g, 63% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.85 (1H, d, J=0.76 Hz), 8.45 (1H, s), 7.62 (1H, t, J=1.51 Hz), 7.34 (1H, d, J=0.76 Hz), 7.23 (1H, dd, J=1.38, 0.88 Hz). LCMS: RT=0.47 min, MH+=181.1.

reactant | 4,6-dichloropyrimidine | 40 mmol, 5.96 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | imidazole | 40.0 mmol, 2.72 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 40.0 mmol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-chloro-6-(1H-imidazol-1-yl)pyrimidine | 4.56 g, 63% yield | ClC1=NC=NC(=C1)N1C=NC=C1 | C7H5ClN4
